US04309426
N-Ethyl-5-(4-fluorophenyl)-6H-1,3,4-thiadiazin-2-amine hydrochloride
11.19 g of 4-ethyl-thiosemicarbazide and 17.6 g of 4-fluorophenacyl chloride are heated and stirred under reflux (65° C.) in 400 ml of methanol for 30 minutes in a one liter round bottom flask equipped with a magnetic stirring bar and a condenser protected by a CaCl2 drying tube. The solution is allowed to cool to room temperature and is then concentrated to a yellow solid residue. The residue is recrystallized from methanol/butanone yielding 21.0 g (75.5%) of N-ethyl-5-(4-fluorophenyl)-6H-1,3,4-thiadiazin-2-amine hydrochloride. m.p. 192°-193° C. The fluffy, yellowish white solid is dried under high vacuum at 65° C.

reactant | 4-ethyl-thiosemicarbazide | 11.19 g | C(C)NC(NN)=S | C3H9N3S
reactant | 4-fluorophenacyl chloride | 17.6 g | FC1=CC=C(C(CCl)=O)C=C1 | C8H6ClFO
solvent | methanol | 400 ml | CO | CH4O
product | N-Ethyl-5-(4-fluorophenyl)-6H-1,3,4-thiadiazin-2-amine hydrochloride | Cl.C(C)NC=1SCC(=NN1)C1=CC=C(C=C1)F | InChI=1S/C11H12FN3S.ClH/c1-2-13-11-15-14-10(7-16-11)8-3-5-9(12)6-4-8;/h3-6H,2,7H2,1H3,(H,13,15);1H
